### PR TITLE
[Merged by Bors] - feat: properties of the conductor

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mo271** [comment]
adding @MichaelStollBayreuth as reviewer, because of the help with this file in past...

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 1]
```diff
@@ -114,4 +116,72 @@ lemma mem_conductorSet_dvd {x : ℕ} (hx : x ∈ conductorSet χ) : x ∣ n := h
 The Dirichlet character `χ` can then alternatively be reformulated on `ℤ/nℤ`. -/
 noncomputable def conductor : ℕ := sInf (conductorSet χ)
 
+lemma conductor_mem_conductorSet : conductor χ ∈ conductorSet χ :=
+  Nat.sInf_mem (Set.nonempty_of_mem (level_mem_conductorSet χ))
+
+lemma conductor_dvd_level : conductor χ ∣ n := (conductor_mem_conductorSet χ).1
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:122]: maybe use `.dvd` in place of `.1` to improve readability.

Comment (mo271) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: done

**Comment by MichaelStollBayreuth** [comment]
I'm thinking of adding some API, but need to play around a bit.

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 2]
```diff
@@ -114,4 +116,73 @@ lemma mem_conductorSet_dvd {x : ℕ} (hx : x ∈ conductorSet χ) : x ∣ n := h
 The Dirichlet character `χ` can then alternatively be reformulated on `ℤ/nℤ`. -/
 noncomputable def conductor : ℕ := sInf (conductorSet χ)
 
+lemma conductor_mem_conductorSet : conductor χ ∈ conductorSet χ :=
+  Nat.sInf_mem (Set.nonempty_of_mem (level_mem_conductorSet χ))
+
+lemma conductor_dvd_level : conductor χ ∣ n := (conductor_mem_conductorSet χ).dvd
+
+lemma FactorsThrough_conductor : FactorsThrough χ (conductor χ) := conductor_mem_conductorSet χ
+
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:125]: I suggest to add the following API lemmas at suitable places.
```lean
lemma level_one (χ : DirichletCharacter R 1) : χ = 1 := by
  ext
  simp [units_eq_one]

lemma level_one' (hn : n = 1) : χ = 1 := by
  subst hn
  exact level_one _

instance : Subsingleton (DirichletCharacter R 1) := by
  refine Iff.mpr subsingleton_iff (fun χ χ' ↦ ?_)
  simp [level_one]

noncomputable instance : Inhabited (DirichletCharacter R n) := ⟨1⟩

noncomputable instance : Unique (DirichletCharacter R 1) := Unique.mk' (DirichletCharacter R 1)

lemma changeLevel_trivial {d : ℕ} (h : d ∣ n) :
    changeLevel h (1 : DirichletCharacter R d) = 1 := by
  simp [changeLevel]

lemma FactorsThrough_one_iff : FactorsThrough χ 1 ↔ χ = 1 := by
  refine ⟨fun ⟨_, χ₀, hχ₀⟩ ↦ ?_,
          fun h ↦ ⟨one_dvd n, 1, by rw [h, changeLevel_trivial]⟩⟩
  rwa [level_one χ₀, changeLevel_trivial] at hχ₀
```

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 3]
```diff
@@ -114,4 +116,73 @@ lemma mem_conductorSet_dvd {x : ℕ} (hx : x ∈ conductorSet χ) : x ∣ n := h
...
+lemma conductor_one (hn : 0 < n) : conductor (1 : DirichletCharacter R n) = 1 := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:126]: We can put one half of a later lemma before this lemma, to be used in the proof:
```lean
lemma conductor_ne_zero (hn : n ≠ 0) : conductor χ ≠ 0 :=
  fun h ↦ hn <| Nat.eq_zero_of_zero_dvd <| h ▸ conductor_dvd_level _

lemma conductor_one (hn : n ≠ 0) : conductor (1 : DirichletCharacter R n) = 1 := by
  suffices : FactorsThrough (1 : DirichletCharacter R n) 1
  · have h : conductor (1 : DirichletCharacter R n) ≤ 1 :=
      Nat.sInf_le <| (mem_conductorSet_iff _).mpr this
    exact Nat.le_antisymm h (Nat.pos_of_ne_zero <| conductor_ne_zero _ hn)
  · exact (FactorsThrough_one_iff _).mpr rfl
```

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 4]
```diff
@@ -114,4 +116,73 @@ lemma mem_conductorSet_dvd {x : ℕ} (hx : x ∈ conductorSet χ) : x ∣ n := h
...
+  ext
+  rw [changeLevel_def, ZMod.unitsMap_def]
+  simp only [toUnitHom_eq, ofUnitHom_eq, Units.isUnit, not_true, equivToUnitHom_symm_coe,
+    MonoidHom.coe_comp, Function.comp_apply, coe_equivToUnitHom, Units.coe_map, MonoidHom.coe_coe,
+    ZMod.castHom_apply, one_apply_coe]
+  convert MonoidHom.map_one (χ₀ : ZMod (conductor χ) →* R)
+  have : Subsingleton (ZMod (conductor χ)) := by
+    rw [hχ]
+    infer_instance
+  simp
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:152]:
```lean
lemma eq_one_iff_conductor_eq_one (hn : n ≠ 0) : χ = 1 ↔ conductor χ = 1 := by
  refine ⟨fun h ↦ h ▸ conductor_one hn, fun hχ ↦?_⟩
  obtain ⟨h', χ₀, h⟩ := FactorsThrough_conductor χ
  exact (level_one' χ₀ hχ ▸ h).trans <| changeLevel_trivial h'
```

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 5]
```diff
@@ -114,4 +116,73 @@ lemma mem_conductorSet_dvd {x : ℕ} (hx : x ∈ conductorSet χ) : x ∣ n := h
...
+lemma conductor_eq_zero_iff_level_eq_zero : conductor χ = 0 ↔ n = 0 :=
+  ⟨λ h => by
+    rw [←zero_dvd_iff]
+    convert conductor_dvd_level χ
+    rw [h],
+  λ h => by
+    rw [conductor, Nat.sInf_eq_zero]
+    left
+    exact ⟨zero_dvd_iff.mpr h, ⟨changeLevel (by rw [h]) χ, by
+        rw [← changeLevel_trans _ _ _, changeLevel_self _]⟩⟩⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:163]:
```lean
lemma conductor_eq_zero_iff_level_eq_zero : conductor χ = 0 ↔ n = 0 := by
  refine ⟨(conductor_ne_zero χ).mtr, ?_⟩
  rintro rfl
  exact Nat.sInf_eq_zero.mpr <| Or.inl <| level_mem_conductorSet χ
```

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 6]
```diff
@@ -114,4 +116,73 @@ lemma mem_conductorSet_dvd {x : ℕ} (hx : x ∈ conductorSet χ) : x ∣ n := h
...
+  Nat.dvd_one.mp (conductor_dvd_level _)
+
+lemma isPritive_one_level_zero : isPrimitive (1 :  DirichletCharacter R 0) := by
+  rw [isPrimitive_def, conductor, Nat.sInf_eq_zero]
+  left
+  rw [conductorSet]
+  simp only [Set.mem_setOf_eq]
+  fconstructor
+  simp only [true_and, ZMod.cast_id', id.def, MonoidHom.coe_mk, dvd_zero]
+  refine ⟨1, by simp⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:182]:
```lean
lemma isPritive_one_level_zero : isPrimitive (1 : DirichletCharacter R 0) :=
  conductor_eq_zero_iff_level_eq_zero (R := R) (n := 0) (χ := 1) |>.mpr rfl
```

**Comment by MichaelStollBayreuth** [comment]
If we had
```lean
lemma unitsMap_surjective {n m : ℕ} (h : n ∣ m) (hm : m ≠ 0) : Function.Surjective (unitsMap h) := sorry
```
(see [this Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Surjectivity.20of.20.28ZMod.20m.29.CB.A3.20.E2.86.92*.20.28ZMod.20n.29.CB.A3/near/392858973)) then we could add
```lean
lemma changeLevel_injective {d : ℕ} (h : d ∣ n) (hn : n ≠ 0) :
    Function.Injective (changeLevel (R := R) h) := by
  intro χ χ' H
  ext a
  obtain ⟨b, hb⟩ := ZMod.unitsMap_surjective h hn a
  apply_fun (· b) at H
  simp only [Units.isUnit, changeLevel_eq_cast_of_dvd _ h] at H 
  rwa [← hb]

lemma changeLevel_trivial_iff {d : ℕ} {χ : DirichletCharacter R n} {χ' : DirichletCharacter R d}
    (hdn : d ∣ n) (hn : n ≠ 0) (h : χ = changeLevel hdn χ') : χ = 1 ↔ χ' = 1 :=
  ⟨fun H ↦ (changeLevel_injective hdn hn <| (H.symm ▸ changeLevel_trivial hdn).trans h).symm,
   fun H ↦ h ▸ H ▸ changeLevel_trivial hdn⟩
```

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean:125]: Maybe we should discuss whether the trivial character should be referred to as `trivial` or as `one`.
The latter could potentially lead to confusion when level 1 is involved.

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean:126]: Also, note that I am using the formally weaker `n ≠ 0` instead of `0 < n` as an assumption.
One could also think of using the `NeZero` typeclass.

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 7]
```diff
@@ -114,4 +116,73 @@ lemma mem_conductorSet_dvd {x : ℕ} (hx : x ∈ conductorSet χ) : x ∣ n := h
 The Dirichlet character `χ` can then alternatively be reformulated on `ℤ/nℤ`. -/
 noncomputable def conductor : ℕ := sInf (conductorSet χ)
 
+lemma conductor_mem_conductorSet : conductor χ ∈ conductorSet χ :=
+  Nat.sInf_mem (Set.nonempty_of_mem (level_mem_conductorSet χ))
+
+lemma conductor_dvd_level : conductor χ ∣ n := (conductor_mem_conductorSet χ).dvd
+
+lemma FactorsThrough_conductor : FactorsThrough χ (conductor χ) := conductor_mem_conductorSet χ
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:124]: The naming convention is

```suggestion
lemma factorsThrough_conductor : FactorsThrough χ (conductor χ) := conductor_mem_conductorSet χ
```

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 8]
```diff
@@ -114,4 +116,73 @@ lemma mem_conductorSet_dvd {x : ℕ} (hx : x ∈ conductorSet χ) : x ∣ n := h
...
+    left
+    exact ⟨zero_dvd_iff.mpr h, ⟨changeLevel (by rw [h]) χ, by
+        rw [← changeLevel_trans _ _ _, changeLevel_self _]⟩⟩⟩
+
+variable (χ)
+
+/-- A character is primitive if its level is equal to its conductor. -/
+def isPrimitive : Prop := conductor χ = n
+
+lemma isPrimitive_def : isPrimitive χ ↔ conductor χ = n := ⟨λ h => h, λ h => h⟩
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:170]:
```suggestion
lemma isPrimitive_def : isPrimitive χ ↔ conductor χ = n := ⟨λ h => h, λ h => h⟩
```
```suggestion
lemma isPrimitive_def : isPrimitive χ ↔ conductor χ = n := Iff.rfl
```

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 2 above)
Comment (mo271) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean:150]: I added this.

Not sure if `trivial` or `one` or `1` would be best. Let's stick with `1` for now?

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 3 above)
Comment (mo271) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: done

**Comment by mo271** [comment]
> If we had
> 
> ```lean
> lemma unitsMap_surjective {n m : ℕ} (h : n ∣ m) (hm : m ≠ 0) : Function.Surjective (unitsMap h) := sorry
> ```
> 
> (see [this Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Surjectivity.20of.20.28ZMod.20m.29.CB.A3.20.E2.86.92*.20.28ZMod.20n.29.CB.A3/near/392858973)) then we could add

I added a TODO for this

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean:162]: What I meant was in names of lemmas, i.e., `changeLevel_trivial` vs. `changeLevel_one`. Writing `1` in the *statements* is perfectly fine.

I guess, right now, it should perhaps be `changeLevel_one` for consistency (or else `factorsThrough_trivial`, `conductor_trivial`, `eq_trivial_iff_conductor_eq_one` etc.). I'm to blame for using `trivial` here, so feel free to change it.

Comment (mo271) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean:162]: changed to `changeLevel_one`

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
